US03972917
7-(3-Hydroxy-1-Octenyl)-1,4-Dioxaspiro[4.4]Non-6-Ylheptanoic Acid
A solution of 3.85 g. of 7-(3-hydroxy-1-octenyl)-1,4-dioxaspiro[4.4]non-6-ylheptanoic acid, methyl ester, acetate in 75 ml. of methanol was treated with 75 ml. of 1N sodium hydroxide and kept at 25° for 0.5 hours. The reaction mixture was diluted with water, washed with ether, acidified with acetic acid and extracted with ether. After washing and drying, the ether extract was evaporated and the residue chromatographed on silica. Elution with 50% ethyl acetate-hexane afforded 0.94 g. of the title product, λmaxfilm 3.0 (shoulder), 3.4, 5.75, 6.85, 8.75, 9.25, 10.4 μ. NMR: 6.35 (S, 2, OH), 5.52 (M, 2, 13 and 14-H), 4.05 (M, 1, 15-H), 3.92 (S, 4, ketal) ppm.

reactant | 7-(3-hydroxy-1-octenyl)-1,4-dioxaspiro[4.4]non-6-ylheptanoic acid, methyl ester | OC(C=CC1C(C2(OCCO2)CC1)C(C(=O)OC)CCCCC)CCCCC | C23H40O5
reactant | acetate | C(C)(=O)[O-]
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | O | H2O
product | 7-(3-Hydroxy-1-Octenyl)-1,4-Dioxaspiro[4.4]Non-6-Ylheptanoic Acid | OC(C=CC1C(C2(OCCO2)CC1)C(C(=O)O)CCCCC)CCCCC | C22H38O5
